US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide hydrochloride
Prepare by the method of example 27.3.1 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (2.8 g, 5.24 mmol) and 4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide hydrochloride (2.8 g, 3.9 mmol). Chromatograph on silica gel eluting sequentially with 50% ethyl acetate/hexane, 3% methanol/dichloromethane, and then 6% methanol/dichloromethane to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 5.24 mmol, 2.8 g | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide hydrochloride | 3.9 mmol, 2.8 g | Cl.CN1CCN(CC1)C(=O)N.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol dichloromethane | CO.ClCCl
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide hydrochloride | Cl.CN1CCN(CC1)C(=O)N.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | InChI=1S/C34H38Cl2N2O6.C6H13N3O.ClH/c1-42-28-19-23(20-29(43-2)30(28)44-3)31(39)38-18-12-33(22-38,25-9-10-26(35)27(36)21-25)11-15-37-16-13-34(14-17-37,32(40)41)24-7-5-4-6-8-24;1-8-2-4-9(5-3-8)6(7)10;/h4-10,19-21H,11-18,22H2,1-3H3,(H,40,41);2-5H2,1H3,(H2,7,10);1H
